US03980681
3-Toluene-p-sulphonyloxy-oestra-1,3,5(10)-trien-17-one.
Oestrone (2 g., 7.4 mmole) in pyridine (10 ml.) was treated at room temperature for 3 days with toluene-p-sulphonyl chloride (2 g., 1.4 equiv.). The stirred mixture was slowly diluted with water (40 ml.). The precipitated oil slowly crystallized on agitation. Recrystallisation from methanol -- methylene cloride gave the title compound plates (2.65 g., 85%), m.p. 143°-145° , [α]D + 105°. (c, 1.00).

reactant | Oestrone | 7.4 mmole, 2 g | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CCC2=O)O | C18H22O2
reactant | toluene-p-sulphonyl chloride | 2 g, 1.4 equiv. | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 40 ml | O | H2O
product | 3-Toluene-p-sulphonyloxy-oestra-1,3,5(10)-trien-17-one | C1(=CC=C(C=C1)S(=O)(=O)OC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)C | C25H28O4S
